US06525042B1
4-tert-Butoxycarbonyl-1-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonylpiperazine
In dichloromethane (18 ml), 1-tert-butoxycarbonyl-3-ethoxycarbonylpiperazine (517 mg) and 6-chloro-2-naphthylsulfonyl chloride (588 mg) were dissolved under ice cooling. To the resulting solution, diisopropylethylamine (0.59 ml) was added, followed by stirring at room temperature for 63 hours. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (hexane:ethyl acetate=3:1), whereby the title compound (688 mg, 71%) was obtained.

reactant | 1-tert-butoxycarbonyl-3-ethoxycarbonylpiperazine | 517 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)C(=O)OCC | C12H22N2O4
reactant | 6-chloro-2-naphthylsulfonyl chloride | 588 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
reactant | diisopropylethylamine | 0.59 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
product | 4-tert-Butoxycarbonyl-1-[(6-chloronaphthalen-2-yl)sulfonyl]-2-ethoxycarbonylpiperazine | C(C)(C)(C)OC(=O)N1CC(N(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)OCC | C22H27ClN2O6S
